US07176217B2
To a solution of ethyl 2-azabicyclo[2.2.1]heptane-3-carboxylate (664 mg, 3.92 mmol) in chloroform (8 ml) were added triethylamine (0.55 ml, 3.92 mmol) and 4-methoxybenzene sulfonyl chloride (892 mg, 4.32 mmol) while being cooled with ice. After a reaction at room temperature for 4 hours, the reaction mixture was washed with 1N hydrochloric acid, saturated sodium bicarbonate water and saturated brine successively, and dried over magnesium sulfate. The solvent was evaporated and the residue was recrystallized (hexane/ethyl acetate), to give ethyl 2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate (927 mg, 70%).

reactant | ethyl 2-azabicyclo[2.2.1]heptane-3-carboxylate | 3.92 mmol, 664 mg | C12NC(C(CC1)C2)C(=O)OCC | C9H15NO2
reactant | triethylamine | 3.92 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzene sulfonyl chloride | 4.32 mmol, 892 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate | 927 mg, 70% | COC1=CC=C(C=C1)S(=O)(=O)N1C2CCC(C1C(=O)OCC)C2 | C16H21NO5S
